US06891066B2
The product of Example 4, 3,4-Difluoro-2-(2-fluoro-4-vinylanilino)-N-(2-hydroxyethoxy)benzamide (170 mg, 0.48 mmol) was dissolved in MeOH (50 mL) and the solution cooled to −78° C. (acetone/dry ice). Ozone was bubbled through the solution until a pale blue-grey solution was obtained, then nitrogen bubbled through the solution until the blue colour disappeared. A solution of NaBH4 (92 mg, 2.41 mmol) in MeOH (10 mL) was added, the reaction mixture removed from the cold bath and allowed to stir for 0.5 h. at RT. The MeOH was removed from the mixture under reduced pressure and the resulting residue partitioned between EtOAc (50 mL) and 1 M HCl (50 mL). The EtOAc layer was washed with water (50 mL) and brine (50 mL), then dried (Na2SO4) and the solvent removed under reduced pressure to afford an oil which was purified by chromatography on silica gel (10% EtOAc as eluant). 3,4-Difluoro-2-[2-fluoro-4-(hydroxymethyl)anilino]-N-(2-hydroxyethoxy)benzamide was isolated as a pale yellow crystalline solid (99 mg, 58%); m.p. (Et2O/hexane) 108-1 10C. 1H NMR [400 MHz, (CD3)2SO] δ 11.86 (br s, 1 H), 8.74 (br s, 1 H), 7.44-7.37 (m, 1 H), 7.16-7.08 (m, 2 H), 7.02-6.97 (m, 1 H), 6.86 (ddd, J=8.6, 8.6, 4.5 Hz, 1 H), 5.18 (t, J=5.7 Hz, 1 H), 4.71 (br s, 1 H), 4.43 (d, J=5.8 Hz, 2 H), 3.85 (t, J=4.7 Hz, 2 H), 3.60-3.52 (m, 2 H). Anal. calcd. for C16H15F3N2O4: C, 53.9; H, 4.2; N, 7.9. Found C, 54.2; H, 4.6; N, 7.6.

reactant | 3,4-Difluoro-2-(2-fluoro-4-vinylanilino)-N-(2-hydroxyethoxy)benzamide | 0.48 mmol, 170 mg | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C=C)F | C17H15F3N2O3
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | NaBH4 | 2.41 mmol, 92 mg | [BH4-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 3,4-Difluoro-2-[2-fluoro-4-(hydroxymethyl)anilino]-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)CO)F | C16H15F3N2O4
